US08278307B2
3-(2-((Dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)aniline:
Potential synthesis of N-[3-{2-[(dimethylamino)methyl]-1H-imidazol-1-yl}-5-(trifluoromethyl)phenyl]-3-ethynyl-4-methylbenzamide: To a solution of N-[3-{2-[(dimethylamino)methyl]-1H-imidazol-1-yl}-5-(trifluoromethyl)phenyl]-4-methyl-3-[(trimethylsilyl)ethynyl]benzamide (4.1 mmol) in THF (15 mL) is added 5 mL of TBAF in THF (1.0M). After stirring at rt for 1 h, the mixture is partitioned between H2O and EtOAc. The combined organic layers are dried over Na2SO4, filtered, and then concentrated on a rotavap and the residue is purified on a silica gel column (eluent: 10% MeOH in CH2Cl2, MeOH was pre-saturated with ammonia gas) to give the desired product.

reactant | N-[3-{2-[(dimethylamino)methyl]-1H-imidazol-1-yl}-5-(trifluoromethyl)phenyl]-3-ethynyl-4-methylbenzamide | CN(C)CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C#C)=O | C23H21F3N4O
reactant | N-[3-{2-[(dimethylamino)methyl]-1H-imidazol-1-yl}-5-(trifluoromethyl)phenyl]-4-methyl-3-[(trimethylsilyl)ethynyl]benzamide | 4.1 mmol | CN(C)CC=1N(C=CN1)C=1C=C(C=C(C1)C(F)(F)F)NC(C1=CC(=C(C=C1)C)C#C[Si](C)(C)C)=O | C26H29F3N4OSi
reactant | TBAF | 5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0M | C1CCOC1 | C4H8O
product | 3-(2-((Dimethylamino)methyl)-1H-imidazol-1-yl)-5-(trifluoromethyl)aniline | CN(C)CC=1N(C=CN1)C=1C=C(N)C=C(C1)C(F)(F)F | C13H15F3N4
